US04024128
By the reaction of 3-ethylmethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide with cyclohexylisocyanate in a manner analogous to that described in Example 1, there is obtained 1-[(3-ethylmethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]-3-cyclohexylurea. The starting material can be prepared by first reacting ethylmethylamine with phosgene to give ethylmethylcarbamoyl chloride and subsequently bringing the latter to reaction with 2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide hydrochloride.

reactant | 3-ethylmethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide | C(C)N1CCC2=C(C(C1)C(NC)=O)C=CC(=C2)S(=O)(=O)N | C14H21N3O3S
reactant | cyclohexylisocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | 1-[(3-ethylmethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]-3-cyclohexylurea | C(C)N1CCC2=C(C(C1)C(NC)=O)C=CC(=C2)S(=O)(=O)NC(=O)NC2CCCCC2 | C21H32N4O4S
